US07169926B1
A solution of 1-benzyl-4-chloro-3-nitro-1H-pyridin-2-one (1.30 g, 4.91 mmol) and 28% aqueous ammonia (4.92 g, 39.3 mmol) in THF (30 mL) was stirred at room temp for 17 h. The solvent was evaporated under reduced pressure and water was added to the residue. The resulting precipitate was collected by filtration, and washed with water to give 4-amino-1-benzyl-3-nitro-1H-pyridin-2-one (1.10 g, 91% yield). 1H-NMR (DMSO): δ 8.13 (m, 2H), 7.69 (d, 1H, J=8.0 Hz), 7.31 (m, 5H), 5.94 (d, 1H, J=8.0 Hz), 4.96 (s, 2H). MS: calculated for C12H11N3O3+H 246.1; found: 246.2.

reactant | 1-benzyl-4-chloro-3-nitro-1H-pyridin-2-one | 4.91 mmol, 1.30 g | C(C1=CC=CC=C1)N1C(C(=C(C=C1)Cl)[N+](=O)[O-])=O | C12H9ClN2O3
reactant | ammonia | 39.3 mmol, 4.92 g | N | H3N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 4-amino-1-benzyl-3-nitro-1H-pyridin-2-one | 1.10 g, 91% yield | NC1=C(C(N(C=C1)CC1=CC=CC=C1)=O)[N+](=O)[O-] | C12H11N3O3
